US04242507
N-Benzyloxycarbonyl-L-phenylalanine (1.5 g) and triethylamine (0.7 ml) are dissolved in anhydrous tetrahydrofuran (20 ml). To the solution is added 1-methanesulfonyloxy-1,2,3-benzotriazole (1.10 g) at room temperature and the mixture is stirred for 1 hour, and thereto is further added 28% aqueous ammonia (3.0 ml) and the mixture is stirred for 2 hours. After allowing to stand, the solvent is distilled off under a reduced pressure, and to the residue is added water and the crystals are crushed. The crystals are separated by filtration, washed with water and dried to give N-benzyloxycarbonyl-L-phenylalaninamide (1.15 g), melting point: 158°-160° C. The product is identified with an authentic sample by infrared spectrum.

reactant | N-Benzyloxycarbonyl-L-phenylalanine | 1.5 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | 1-methanesulfonyloxy-1,2,3-benzotriazole | 1.10 g | CS(=O)(=O)ON1N=NC2=C1C=CC=C2 | C7H7N3O3S
reactant | ammonia | 3.0 ml | N | H3N
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-benzyloxycarbonyl-L-phenylalaninamide | 1.15 g | C(C1=CC=CC=C1)OC(=O)NC([C@@H](N)CC1=CC=CC=C1)=O | C17H18N2O3
